US08026370B2
1,5-dioxaspiro[5,5]undecane
Cyclohexanone (7.94 g) was dissolved in toluene (200 mL), 1,3-propanediol (12.3 g) and p-toluenesulfonic acid monohydrate (0.1 g) were added thereto, and the mixture was heated under reflux for 1.5 hr while removing water being produced. The temperature was allowed to cool to room temperature, and the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (12.4 g) as a colorless oil.

reactant | Cyclohexanone | 7.94 g | C1(CCCCC1)=O | C6H10O
reactant | 1,3-propanediol | 12.3 g | C(CCO)O | C3H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1,5-dioxaspiro[5,5]undecane | 12.4 g | O1CCCOC12CCCCC2 | C9H16O2
